US08470820B2
A-15: 3-Amino-6-cyano-pyridine-2-carboxylic acid ethyl ester
A solution of 3-amino-6-bromo-pyridine-2-carboxylic acid ethyl ester (40 mg, 163 μmol) and copper(I) cyanide (29.2 mg, 326 μmol) in DMF (800 μL) was heated in the microwave at 220° C. for 8 min. The reaction mixture was filtered through diatomaceous filter-aid and the crude product was purified by preparative HPLC to afford the title compound as off-white solid (8.3 mg, 26.6%).

reactant | 3-amino-6-bromo-pyridine-2-carboxylic acid ethyl ester | 163 μmol, 40 mg | C(C)OC(=O)C1=NC(=CC=C1N)Br | C8H9BrN2O2
reactant | copper(I) cyanide | 326 μmol, 29.2 mg | [Cu]C#N
solvent | DMF | 800 μL | CN(C)C=O | C3H7NO
product | 3-Amino-6-cyano-pyridine-2-carboxylic acid ethyl ester | 8.3 mg, 26.6% | C(C)OC(=O)C1=NC(=CC=C1N)C#N | C9H9N3O2
